### PR TITLE
[Merged by Bors] - feat(Algebra/Polynomial): small and useful lemmas

### PR DESCRIPTION
**Pull request by SnirBroshi**
---
Moves these 4 theorems from `Mathlib.Algebra.Polynomial.Monic` to `Mathlib.Algebra.Polynomial.Degree.Lemmas`:
- `degree_map_eq_of_injective`
- `natDegree_map_eq_of_injective`
- `leadingCoeff_map_of_injective`
- `nextCoeff_map`

`Monic.lean` imports `Lemmas.lean` so users are not affected.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Field/Basic.lean [hunk 1]
```diff
@@ -119,6 +120,11 @@ theorem one_div_mul_sub_mul_one_div_eq_one_div_add_one_div (ha : a ≠ 0) (hb :
 instance (priority := 100) DivisionRing.isDomain : IsDomain K :=
   NoZeroDivisors.to_isDomain _
 
+/-- A ring homomorphism from a division ring to a non-trivial semiring is injective. -/
+theorem RingHom.injective_from_divisionRing {S F : Type*} [Nontrivial S] [Semiring S]
+    [FunLike F K S] [rc : RingHomClass F K S] (f : F) : Function.Injective f :=
+  injective_iff_map_eq_zero' _ |>.mpr fun _ ↦ map_eq_zero _
```
Comment (kckennylau) [inline Mathlib/Algebra/Field/Basic.lean]: Already available as [RingHom.injective](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/SimpleRing/Basic.html#RingHom.injective):
```lean
import Mathlib

/-- A ring homomorphism from a division ring to a non-trivial semiring is injective. -/
theorem RingHom.injective_from_divisionRing {K : Type*} [DivisionRing K]
    {S F : Type*} [Nontrivial S] [Semiring S]
    [FunLike F K S] [rc : RingHomClass F K S] (f : F) : Function.Injective f :=
  RingHom.injective (RingHomClass.toRingHom f)
```
[(live editor)](https://live.lean-lang.org/#codez=JYWwDg9gTgLgBAWQIYwBYBtgCMBQOD0AtIXAIJxTAB2A5nKhCI9GKsAM4hwBmUjcSOABNgANw7AIVCtTowIAuFSmEYlcUnRx2AUxDBKtOB2NUAVjoDGMMToB0cQvhxod0PXABKsgBKM71BbWtgD6vIwhIuLsklTeRgDeANJwAFxwACoAnmA6AFQAvnAA2gAiYhJS8XRJALo4cI1wCQDKcABiaZk5+UXFAHJSahWacC21JS16BrJj9U0l7QCuVAAywADWOh1wKeMlUJZd1X4gAMLoSOzsO3sTABTcXe0AlM8rwVJ2AJLmVjaibZPVIAXgaXl8/kC/1scHuJ0YFyu7Ds8gRXG4LxwQA)

File: Mathlib/Algebra/Polynomial/Degree/Lemmas.lean [hunk 2]
```diff
@@ -272,6 +272,19 @@ theorem natDegree_map_eq_iff {f : R →+* S} {p : Polynomial R} :
   · simp_rw [h, ne_eq, or_true, iff_true, ← Nat.le_zero, ← h, natDegree_map_le]
   simp_all [natDegree, WithBot.unbotD_eq_unbotD_iff]
 
+theorem degree_map_eq_of_injective {f : R →+* S} {p : Polynomial R} (hf : Function.Injective f) :
+    (p.map f).degree = p.degree := by
+  simp [hf, map_ne_zero_iff, ne_or_eq]
+
```
Comment (kckennylau) [inline Mathlib/Algebra/Polynomial/Degree/Lemmas.lean]: [Polynomial.degree_map_eq_of_injective](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Polynomial/Monic.html#Polynomial.degree_map_eq_of_injective)

File: Mathlib/Algebra/Polynomial/Degree/Lemmas.lean [hunk 3]
```diff
@@ -272,6 +272,19 @@ theorem natDegree_map_eq_iff {f : R →+* S} {p : Polynomial R} :
...
+theorem natDegree_map_eq_of_injective {f : R →+* S} {p : Polynomial R} (hf : Function.Injective f) :
+    (p.map f).natDegree = p.natDegree := by
+  simp [hf, natDegree, degree_map_eq_of_injective]
```
Comment (kckennylau) [inline Mathlib/Algebra/Polynomial/Degree/Lemmas.lean]: [Polynomial.natDegree_map_eq_of_injective](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Polynomial/Monic.html#Polynomial.natDegree_map_eq_of_injective)

File: Mathlib/Algebra/Polynomial/Degree/Lemmas.lean [hunk 4]
```diff
@@ -272,6 +272,19 @@ theorem natDegree_map_eq_iff {f : R →+* S} {p : Polynomial R} :
...
+
+theorem leadingCoeff_map_of_injective {f : R →+* S} {p : Polynomial R} (hf : Function.Injective f) :
+    (p.map f).leadingCoeff = f (p.leadingCoeff) := by
+  unfold leadingCoeff
+  simp [hf, natDegree_map_eq_of_injective]
```
Comment (kckennylau) [inline Mathlib/Algebra/Polynomial/Degree/Lemmas.lean]: [Polynomial.leadingCoeff_of_injective](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Polynomial/Monic.html#Polynomial.leadingCoeff_of_injective)

File: Mathlib/Algebra/Polynomial/Degree/Lemmas.lean [hunk 5]
```diff
@@ -324,6 +337,13 @@ lemma natDegree_eq_one : p.natDegree = 1 ↔ ∃ a ≠ 0, ∃ b, C a * X + C b =
   · rintro ⟨a, ha, b, rfl⟩
     simp [ha]
 
+theorem isRoot_subsingleton_of_degree_eq_one [IsLeftCancelMul R] [IsRightCancelAdd R]
```
Comment (kckennylau) [inline Mathlib/Algebra/Polynomial/Degree/Lemmas.lean]:
```suggestion
theorem subsingleton_isRoot_of_natDegree_eq_one [IsLeftCancelMul R] [IsRightCancelAdd R]
```

Comment (kckennylau) [inline Mathlib/Algebra/Polynomial/Degree/Lemmas.lean]: `IsLeftCancelMul R` is the wrong condition, you probably want `IsDomain R` instead.

```lean
import Mathlib

variable {R : Type*} [Semiring R] [IsLeftCancelMul R]

theorem subsingleton_of_semiring_of_isLeftCancelMul : Subsingleton R :=
  subsingleton_of_forall_eq 0 fun x ↦
    mul_left_cancel (a := 0) (by simp [zero_mul])
```
([live editor](https://live.lean-lang.org/#codez=JYWwDg9gTgLgBAWQIYwBYBtgCMBQOBuSUwSW6ApnAN4BKcAXHACoCeY5AVAL5wDaAyuRDBiAOwDmcGgF0+ASQDOAGXIAzGAGEkogMbl0CAK7op0vGnLQhcBYawLgEijAiiA+hFVuFQkY/EeXsDKapraegbGDHD8dg5O5C6iUgwAvDhwNnH+zq6BbqrQSOjobuQAjnAADHCqhskAHnCAZYQZmXAgxm4U6m464fpwABRIadUAlMNYLDagYHwAXuRQEG6d6NLjOEA))

File: Mathlib/Algebra/Polynomial/Degree/Lemmas.lean [hunk 6]
```diff
@@ -358,6 +378,20 @@ theorem leadingCoeff_comp (hq : natDegree q ≠ 0) :
     leadingCoeff (p.comp q) = leadingCoeff p * leadingCoeff q ^ natDegree p := by
   rw [← coeff_comp_degree_mul_degree hq, ← natDegree_comp, coeff_natDegree]
 
+theorem leadingCoeff_C_mul : (C a * p).leadingCoeff = a * p.leadingCoeff := by
+  simp
+
+theorem leadingCoeff_mul_C : (p * C a).leadingCoeff = p.leadingCoeff * a := by
+  simp
```
Comment (kckennylau) [inline Mathlib/Algebra/Polynomial/Degree/Lemmas.lean]: These lemmas don't seem to be very useful.

File: Mathlib/Algebra/Polynomial/Eval/Coeff.lean [hunk 7]
```diff
@@ -61,6 +61,12 @@ theorem coeff_zero_eq_eval_zero (p : R[X]) : coeff p 0 = p.eval 0 :=
 theorem zero_isRoot_of_coeff_zero_eq_zero {p : R[X]} (hp : p.coeff 0 = 0) : IsRoot p 0 := by
   rwa [coeff_zero_eq_eval_zero] at hp
 
+theorem coeff_zero_eq_zero_of_zero_isRoot {p : R[X]} (hp : IsRoot p 0) : p.coeff 0 = 0 := by
+  rwa [coeff_zero_eq_eval_zero]
+
+theorem zero_isRoot_iff_coeff_zero_eq_zero {p : R[X]} : IsRoot p 0 ↔ p.coeff 0 = 0 :=
+  ⟨coeff_zero_eq_zero_of_zero_isRoot, zero_isRoot_of_coeff_zero_eq_zero⟩
```
Comment (kckennylau) [inline Mathlib/Algebra/Polynomial/Eval/Coeff.lean]: You could probably combine all these lemmas:

```suggestion
theorem zero_isRoot_iff_coeff_zero_eq_zero {p : R[X]} : IsRoot p 0 ↔ p.coeff 0 = 0 := by
  rw [coeff_zero_eq_eval_zero, IsRoot]

alias ⟨coeff_zero_eq_zero_of_zero_isRoot, zero_isRoot_of_coeff_zero_eq_zero⟩ :=
  zero_isRoot_iff_coeff_zero_eq_zero
```

File: Mathlib/Algebra/Polynomial/Eval/Coeff.lean [hunk 8]
```diff
@@ -223,4 +229,17 @@ end Map
...
+section DivisionRing
+
+variable [DivisionRing R] [Nontrivial S] [Semiring S]
+variable {f : R →+* S} {p : R[X]}
+
+theorem map_eq_zero_iff_from_divisionRing : p.map f = 0 ↔ p = 0 :=
+  Polynomial.map_eq_zero_iff <| RingHom.injective_from_divisionRing f
+
+theorem map_ne_zero_iff_from_divisionRing : p.map f ≠ 0 ↔ p ≠ 0 :=
+  Polynomial.map_ne_zero_iff <| RingHom.injective_from_divisionRing f
```
Comment (kckennylau) [inline Mathlib/Algebra/Polynomial/Eval/Coeff.lean]: Please generalise to the conditions of [RingHom.injective](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/SimpleRing/Basic.html#RingHom.injective).

File: Mathlib/Algebra/Polynomial/Eval/Defs.lean [hunk 9]
```diff
@@ -546,9 +546,14 @@ protected theorem map_list_prod (L : List R[X]) : L.prod.map f = (L.map <| map f
 protected theorem map_pow (n : ℕ) : (p ^ n).map f = p.map f ^ n :=
   (mapRingHom f).map_pow _ _
 
+@[simp]
 theorem eval_map (x : S) : (p.map f).eval x = p.eval₂ f x :=
   (eval₂_eq_eval_map f).symm
```
Comment (kckennylau) [inline Mathlib/Algebra/Polynomial/Eval/Defs.lean]: I'm not convinced that this should be a simp lemma.

File: Mathlib/Algebra/Polynomial/Eval/Defs.lean [hunk 10]
```diff
@@ -546,9 +546,14 @@ protected theorem map_list_prod (L : List R[X]) : L.prod.map f = (L.map <| map f
...
 
+lemma eval_map' (x : R) :
```
Comment (kckennylau) [inline Mathlib/Algebra/Polynomial/Eval/Defs.lean]:
```suggestion
lemma eval_map_apply (x : R) :
```

File: Mathlib/Algebra/Polynomial/Eval/Degree.lean [hunk 11]
```diff
@@ -180,15 +177,30 @@ theorem natDegree_map_of_leadingCoeff_ne_zero (f : R →+* S) (hf : f (leadingCo
 theorem leadingCoeff_map_of_leadingCoeff_ne_zero (f : R →+* S) (hf : f (leadingCoeff p) ≠ 0) :
     leadingCoeff (p.map f) = f (leadingCoeff p) := by
   unfold leadingCoeff
-  rw [coeff_map, natDegree_map_of_leadingCoeff_ne_zero f hf]
+  simp [hf, natDegree_map_of_leadingCoeff_ne_zero]
+
+variable (f) in
+theorem degree_map_of_leadingCoeff_isUnit [Nontrivial S] (hf : IsUnit <| p.leadingCoeff) :
```
Comment (kckennylau) [inline Mathlib/Algebra/Polynomial/Eval/Degree.lean]:
```suggestion
theorem degree_map_of_isUnit_leadingCoeff [Nontrivial S] (hp : IsUnit p.leadingCoeff) :
```

File: Mathlib/Algebra/Polynomial/Eval/Degree.lean [hunk 12]
```diff
@@ -180,15 +177,30 @@ theorem natDegree_map_of_leadingCoeff_ne_zero (f : R →+* S) (hf : f (leadingCo
...
+    (p.map f).degree = p.degree :=
+  degree_map_eq_of_leadingCoeff_ne_zero _ <| fun h ↦ not_isUnit_zero <|
+    h ▸ RingHom.isUnit_map _ hf
```
Comment (kckennylau) [inline Mathlib/Algebra/Polynomial/Eval/Degree.lean]:
```suggestion
  degree_map_eq_of_leadingCoeff_ne_zero f (f.isUnit_map hp).ne_zero
```

File: Mathlib/Algebra/Polynomial/Eval/Degree.lean [hunk 13]
```diff
@@ -180,15 +177,30 @@ theorem natDegree_map_of_leadingCoeff_ne_zero (f : R →+* S) (hf : f (leadingCo
...
+
+variable (f) in
+theorem natDegree_map_of_leadingCoeff_isUnit [Nontrivial S] (hf : IsUnit <| p.leadingCoeff) :
+    (p.map f).natDegree = p.natDegree :=
+  natDegree_eq_natDegree <| degree_map_of_leadingCoeff_isUnit f hf
```
Comment (kckennylau) [inline Mathlib/Algebra/Polynomial/Eval/Degree.lean]:
```suggestion
theorem natDegree_map_of_isUnit_leadingCoeff [Nontrivial S] (hp : IsUnit p.leadingCoeff) :
    (p.map f).natDegree = p.natDegree :=
  natDegree_eq_natDegree <| degree_map_of_leadingCoeff_isUnit f hp
```

File: Mathlib/Algebra/Polynomial/Eval/Degree.lean [hunk 14]
```diff
@@ -180,15 +177,30 @@ theorem natDegree_map_of_leadingCoeff_ne_zero (f : R →+* S) (hf : f (leadingCo
...
+
+variable (f) in
+theorem leadingCoeff_map_of_leadingCoeff_isUnit [Nontrivial S] (hf : IsUnit <| p.leadingCoeff) :
+    (p.map f).leadingCoeff = f (p.leadingCoeff) :=
+  leadingCoeff_map_of_leadingCoeff_ne_zero _ <| fun h ↦ not_isUnit_zero <|
+    h ▸ RingHom.isUnit_map _ hf
```
Comment (kckennylau) [inline Mathlib/Algebra/Polynomial/Eval/Degree.lean]:
```suggestion
theorem leadingCoeff_map_of_isUnit_leadingCoeff [Nontrivial S] (hp : IsUnit p.leadingCoeff) :
    (p.map f).leadingCoeff = f (p.leadingCoeff) :=
  leadingCoeff_map_of_leadingCoeff_ne_zero _ (f.isUnit_map hp).ne_zero
```

File: Mathlib/Algebra/Polynomial/Eval/Degree.lean [hunk 15]
```diff
@@ -180,15 +177,30 @@ theorem natDegree_map_of_leadingCoeff_ne_zero (f : R →+* S) (hf : f (leadingCo
...
 
 end Map
 
 end Semiring
 
-section CommSemiring
-
-section Eval
+section CommSemiring.Eval
```
Comment (kckennylau) [inline Mathlib/Algebra/Polynomial/Eval/Degree.lean]: This is not a namespace, I don't think this change is necessary.

File: Mathlib/Algebra/Polynomial/Eval/Degree.lean [hunk 16]
```diff
@@ -217,9 +229,22 @@ theorem iterate_comp_eval :
 
 end
 
-end Eval
+end CommSemiring.Eval
+
+section DivisionRing.Map
```
Comment (kckennylau) [inline Mathlib/Algebra/Polynomial/Eval/Degree.lean]: Again, I would split this section name.

File: Mathlib/Algebra/Polynomial/Eval/Degree.lean [hunk 17]
```diff
@@ -217,9 +229,22 @@ theorem iterate_comp_eval :
...
+variable [DivisionRing R] [Nontrivial S] [Semiring S] (f : R →+* S) (p : R[X])
+
+theorem degree_map_from_divisionRing : (p.map f).degree = p.degree := by
+  by_cases h₀ : p = 0 <;> simp [h₀, degree_map_eq_of_leadingCoeff_ne_zero]
+
+theorem natDegree_map_from_divisionRing : (p.map f).natDegree = p.natDegree :=
+  natDegree_eq_natDegree <| degree_map_from_divisionRing f p
+
+theorem leadingCoeff_map_from_divisionRing : (p.map f).leadingCoeff = f (p.leadingCoeff) := by
+  by_cases h₀ : p = 0 <;> simp [h₀, leadingCoeff_map_of_leadingCoeff_ne_zero]
```
Comment (kckennylau) [inline Mathlib/Algebra/Polynomial/Eval/Degree.lean]: Again, please generalise to the conditions of `RingHom.injective`.

File: Mathlib/Algebra/Polynomial/Basic.lean [hunk 18]
```diff
@@ -459,6 +459,10 @@ theorem C_0 : C (0 : R) = 0 := by simp
 theorem C_1 : C (1 : R) = 1 :=
   rfl
 
+@[simp]
+theorem C_ofNat (n : ℕ) [n.AtLeastTwo] : C ofNat(n) = (ofNat(n) : R[X]) :=
+  rfl
```
Comment (kckennylau) [inline Mathlib/Algebra/Polynomial/Basic.lean]: I am not convinced this should be a simp lemma, see the two lemmas above.

File: Mathlib/Algebra/Polynomial/Div.lean [hunk 19]
```diff
@@ -704,6 +705,11 @@ lemma le_rootMultiplicity_mul {p q : R[X]} (x : R) (hpq : p * q ≠ 0) :
   rw [le_rootMultiplicity_iff hpq, pow_add]
   gcongr <;> apply pow_rootMultiplicity_dvd
 
+lemma le_rootMultiplicity_div {p q : R[X]} (hq : q ≠ 0) (hpq : p ∣ q) (x : R) :
```
Comment (kckennylau) [inline Mathlib/Algebra/Polynomial/Div.lean]:
```suggestion
lemma rootMultiplicity_le_rootMultiplicity_of_dvd {p q : R[X]} (hq : q ≠ 0) (hpq : p ∣ q) (x : R) :
```

File: Mathlib/Algebra/Polynomial/Div.lean [hunk 20]
```diff
@@ -704,6 +705,11 @@ lemma le_rootMultiplicity_mul {p q : R[X]} (x : R) (hpq : p * q ≠ 0) :
...
+    rootMultiplicity x p ≤ rootMultiplicity x q := by
+  have ⟨d, h⟩ := hpq
+  exact h ▸ Nat.le_of_add_right_le (le_rootMultiplicity_mul x <| h ▸ hq)
```
Comment (kckennylau) [inline Mathlib/Algebra/Polynomial/Div.lean]:
```suggestion
    rootMultiplicity x p ≤ rootMultiplicity x q :=
  let ⟨d, h⟩ := hpq
  h ▸ Nat.le_of_add_right_le (le_rootMultiplicity_mul x <| h ▸ hq)
```

File: Mathlib/Algebra/Polynomial/Div.lean [hunk 21]
```diff
@@ -743,6 +749,32 @@ lemma degree_eq_one_of_irreducible_of_root (hi : Irreducible p) {x : R} (hx : Is
...
+    {A B : Type*} [CommRing A] [IsDomain A] [Ring B] [Algebra A B]
+    (hinj : Function.Injective (algebraMap A B))
+    {p : A[X]} (hi : Irreducible p) (hdeg : p.natDegree ≠ 1)
+    {x : B} (hx : x ∈ (algebraMap A B).range) : Polynomial.aeval x p ≠ 0 := by
+  have ⟨y, hy⟩ := hx
+  rw [← hy, aeval_algebraMap_apply_eq_algebraMap_eval]
+  exact fun heq ↦
+    not_isRoot_of_irreducible_natDegree_ne_one hi hdeg <| hinj <| map_zero (algebraMap A B) ▸ heq
+
+lemma isRoot_subsingleton_of_irreducible [IsLeftCancelMul R] [IsRightCancelAdd R]
```
Comment (kckennylau) [inline Mathlib/Algebra/Polynomial/Div.lean]: Again, `[IsLeftCancelMul R]` is wrong.

File: Mathlib/Algebra/Polynomial/Div.lean [hunk 22]
```diff
@@ -743,6 +749,32 @@ lemma degree_eq_one_of_irreducible_of_root (hi : Irreducible p) {x : R} (hx : Is
...
+    (hi : Irreducible p) : { x | p.IsRoot x }.Subsingleton :=
+  fun _ hx ↦ (
+    isRoot_subsingleton_of_degree_eq_one <|
+    natDegree_eq_of_degree_eq_some <|
+    degree_eq_one_of_irreducible_of_root hi hx
+  ) hx
```
Comment (kckennylau) [inline Mathlib/Algebra/Polynomial/Div.lean]:
```suggestion
  fun _ hx ↦ (isRoot_subsingleton_of_degree_eq_one <| natDegree_eq_of_degree_eq_some <|
    degree_eq_one_of_irreducible_of_root hi hx) hx
```

File: Mathlib/Algebra/Polynomial/Monic.lean [hunk 23]
```diff
@@ -376,31 +370,9 @@ open Function
...
-  rw [natDegree_map_eq_of_injective hf]
-  split_ifs <;> simp [*]
-
-theorem leadingCoeff_of_injective (hf : Injective f) (p : R[X]) :
-    leadingCoeff (p.map f) = f (leadingCoeff p) := by
-  delta leadingCoeff
-  rw [coeff_map f, natDegree_map_eq_of_injective hf p]
+alias leadingCoeff_map' := leadingCoeff_map_of_injective
+alias leadingCoeff_of_injective := leadingCoeff_map_of_injective
+alias nextCoeff_map := nextCoeff_map_of_injective
```
Comment (kckennylau) [inline Mathlib/Algebra/Polynomial/Monic.lean]: https://github.com/leanprover-community/mathlib4/blob/1fb1d7f4de94d07accd2d4443a25967d94efa219/Mathlib/Order/Concept.lean#L214-L215

Please add `@[deprecated]` tags, see the above for example.

File: Mathlib/Algebra/Polynomial/Degree/Lemmas.lean [hunk 24]
```diff
@@ -324,6 +343,13 @@ lemma natDegree_eq_one : p.natDegree = 1 ↔ ∃ a ≠ 0, ∃ b, C a * X + C b =
   · rintro ⟨a, ha, b, rfl⟩
     simp [ha]
 
+theorem subsingleton_isRoot_of_natDegree_eq_one [IsLeftCancelMulZero R] [IsRightCancelAdd R]
+    (h : p.natDegree = 1) : { x | IsRoot p x }.Subsingleton := by
+  intro x hx y hy
+  have ⟨a, ha, b, hp⟩ := Polynomial.natDegree_eq_one.mp h
+  simp [← hp] at hx hy
+  exact IsLeftCancelMulZero.mul_left_cancel_of_ne_zero ha <| add_right_cancel <| hy ▸ hx
```
Comment (kckennylau) [inline Mathlib/Algebra/Polynomial/Degree/Lemmas.lean]:
```suggestion
  exact mul_left_cancel₀ ha <| add_right_cancel <| hy ▸ hx
```

File: Mathlib/Algebra/Polynomial/Degree/Lemmas.lean [hunk 25]
```diff
@@ -324,6 +343,13 @@ lemma natDegree_eq_one : p.natDegree = 1 ↔ ∃ a ≠ 0, ∃ b, C a * X + C b =
   · rintro ⟨a, ha, b, rfl⟩
     simp [ha]
 
+theorem subsingleton_isRoot_of_natDegree_eq_one [IsLeftCancelMulZero R] [IsRightCancelAdd R]
+    (h : p.natDegree = 1) : { x | IsRoot p x }.Subsingleton := by
+  intro x hx y hy
+  have ⟨a, ha, b, hp⟩ := Polynomial.natDegree_eq_one.mp h
+  simp [← hp] at hx hy
```
Comment (kckennylau) [inline Mathlib/Algebra/Polynomial/Degree/Lemmas.lean]:
```suggestion
  obtain ⟨a, ha, b, rfl⟩ := Polynomial.natDegree_eq_one.mp h
  simp only [IsRoot.def, eval_add, eval_mul_X, eval_C, Set.mem_setOf_eq] at hx hy
```
You have a non-terminal simp, i.e. your simp does not close a goal, so you should convert that to `simp?`, which we call "squeezing the simp"; and then when you click on the result, you will get the line I have suggested.

File: Mathlib/Algebra/Polynomial/Roots.lean [hunk 26]
```diff
@@ -111,6 +111,23 @@ theorem ne_zero_of_mem_roots (h : a ∈ p.roots) : p ≠ 0 :=
 theorem isRoot_of_mem_roots (h : a ∈ p.roots) : IsRoot p a :=
   (mem_roots'.1 h).2
 
+theorem roots_zero_iff_isRoot_bot (hp0 : p ≠ 0) : p.roots = 0 ↔ p.IsRoot = ⊥ := by
+  constructor <;> intro h
+  · ext a
+    simp
```
Comment (kckennylau) [inline Mathlib/Algebra/Polynomial/Roots.lean]: non-terminal simp, please squeeze simp (i.e. put `simp?` and then click the result)

File: Mathlib/Algebra/Polynomial/Roots.lean [hunk 27]
```diff
@@ -710,12 +727,32 @@ theorem Monic.isUnit_leadingCoeff_of_dvd {a p : R[X]} (hp : Monic p) (hap : a 
...
+  have ⟨q, hq⟩ := p.prod_multiset_X_sub_C_dvd
+  have ⟨x₁, hx₁⟩ := card_pos_iff_exists_mem.mp <| show 0 < p.roots.card by cutsat
+  have ⟨q₁, hq₁⟩ := exists_cons_of_mem hx₁
+  have := hq₁ ▸ Multiset.card_cons x₁ q₁
+  have ⟨x₂, hx₂⟩ := card_pos_iff_exists_mem.mp <| show 0 < q₁.card by cutsat
+  have ⟨q₂, hq₂⟩ := exists_cons_of_mem hx₂
+  simp [hq₁, hq₂, mul_assoc] at hq
+  obtain hu | hu := hirr.isUnit_or_isUnit hq <;> apply degree_eq_zero_of_isUnit at hu <;> simp at hu
+  have := Nat.WithBot.add_eq_zero_iff.mp hu |>.left
+  contradiction
```
Comment (kckennylau) [inline Mathlib/Algebra/Polynomial/Roots.lean]:
```suggestion
theorem roots_congr {p q : R[X]} (h : Associated p q) : p.roots = q.roots := by
  obtain ⟨u, rfl⟩ := h
  rw [eq_C_of_degree_eq_zero <| degree_coe_units u, mul_comm,
    roots_C_mul _ (coeff_coe_units_zero_ne_zero u)]

theorem Irreducible.roots_card_le_one (hirr : Irreducible p) : p.roots.card ≤ 1 := by
  by_contra hcard
  apply hcard
  have ⟨x, hx⟩ := card_pos_iff_exists_mem.mp <| show 0 < p.roots.card by cutsat
  rw [← roots_congr <| (irreducible_X_sub_C _).associated_of_dvd hirr <| dvd_iff_isRoot.mpr <|
    isRoot_of_mem_roots hx]
  simp
```

`roots_congr` can probably be moved right after `roots_C_mul`.

Comment (kckennylau) [inline Mathlib/Algebra/Polynomial/Roots.lean]:
```suggestion
theorem Irreducible.roots_card_le_one (hirr : Irreducible p) : p.roots.card ≤ 1 := by
  obtain hp | ⟨x, hx⟩ := p.roots.empty_or_exists_mem
  · simp [hp]
  convert p.card_roots'
  exact (natDegree_eq_of_degree_eq_some <| degree_eq_one_of_irreducible_of_root hirr
    (isRoot_of_mem_roots hx)).symm
```

File: Mathlib/Algebra/Polynomial/Roots.lean [hunk 28]
```diff
@@ -785,6 +822,26 @@ theorem map_roots_le_of_injective [IsDomain A] [IsDomain B] (p : A[X]) {f : A 
   · simp only [hp0, roots_zero, Multiset.map_zero, Polynomial.map_zero, le_rfl]
   exact map_roots_le ((Polynomial.map_ne_zero_iff hf).mpr hp0)
 
+theorem map_roots_card_le_degree {A B : Type*} [Semiring A] [CommRing B] [IsDomain B]
+    {f : A →+* B} (p : A[X]) (h : p.map f ≠ 0) : (p.map f).roots.card ≤ p.degree :=
+  card_roots h |>.trans degree_map_le
```
Comment (kckennylau) [inline Mathlib/Algebra/Polynomial/Roots.lean]: `h` is not necessary

File: Mathlib/Algebra/Polynomial/Roots.lean [hunk 29]
```diff
@@ -785,6 +822,26 @@ theorem map_roots_le_of_injective [IsDomain A] [IsDomain B] (p : A[X]) {f : A 
...
+
+theorem map_roots_card_le_natDegree {A B : Type*} [Semiring A] [CommRing B] [IsDomain B]
+    {f : A →+* B} (p : A[X]) : (p.map f).roots.card ≤ p.natDegree :=
+  card_roots' _ |>.trans natDegree_map_le
+
+open Classical in
+theorem map_roots_filter_range_eq_roots_map [IsDomain A] [IsDomain B]
+    {f : A →+* B} (hf : Function.Injective f) (p : A[X]) :
+    (p.map f).roots.filter (· ∈ f.range) = p.roots.map f := by
```
Comment (kckennylau) [inline Mathlib/Algebra/Polynomial/Roots.lean]: Please assume the `DecidablePred` instance instead of `open`ing `Classical`.

Comment (kckennylau) [reply Mathlib/Algebra/Polynomial/Roots.lean]: This is to avoid "diamond", i.e. right now if someone provides another instance that the predicate is decidable, then they will not be able to use your theorem.

File: Mathlib/FieldTheory/IsAlgClosed/Basic.lean [hunk 30]
```diff
@@ -108,13 +108,52 @@ theorem roots_eq_zero_iff [IsAlgClosed k] {p : k[X]} :
...
+
+theorem map_roots_card_eq_natDegree_of_leadingCoeff_ne_zero {A B : Type*} [CommRing A] [Field B]
+    [IsAlgClosed B] (f : A →+* B) {p : A[X]} (hf : f p.leadingCoeff ≠ 0) :
+    (p.map f).roots.card = p.natDegree :=
+  natDegree_map_of_leadingCoeff_ne_zero _ hf ▸ roots_card_eq_natDegree
+
+theorem map_roots_card_eq_natDegree_of_isUnit_leadingCoeff {A B : Type*} [CommRing A] [Field B]
+    [IsAlgClosed B] (f : A →+* B) {p : A[X]} (h : IsUnit p.leadingCoeff) :
+    (p.map f).roots.card = p.natDegree :=
+  natDegree_map_of_isUnit_leadingCoeff f h ▸ roots_card_eq_natDegree
```
Comment (kckennylau) [inline Mathlib/FieldTheory/IsAlgClosed/Basic.lean]: does A have to be a comm ring?

File: Mathlib/FieldTheory/IsAlgClosed/Basic.lean [hunk 31]
```diff
@@ -108,13 +108,52 @@ theorem roots_eq_zero_iff [IsAlgClosed k] {p : k[X]} :
...
+  map_roots_card_eq_natDegree_of_leadingCoeff_ne_zero _ hf
+
+theorem aroots_card_eq_natDegree_of_isUnit_leadingCoeff {A B : Type*} [CommRing A] [Field B]
+    [IsAlgClosed B] [Algebra A B] {p : A[X]} (h : IsUnit p.leadingCoeff) :
+    (p.aroots B).card = p.natDegree :=
+  map_roots_card_eq_natDegree_of_isUnit_leadingCoeff _ h
+
+theorem aroots_card_eq_natDegree_from_field {A B : Type*} [CommRing A] [IsSimpleRing A]
+    [Field B] [IsAlgClosed B] [Algebra A B] {p : A[X]} : (p.aroots B).card = p.natDegree :=
+  map_roots_card_eq_natDegree_from_simpleRing _
```
Comment (kckennylau) [inline Mathlib/FieldTheory/IsAlgClosed/Basic.lean]: does A have to be a comm ring?

File: Mathlib/FieldTheory/IsAlgClosed/Basic.lean (hunk 30 above)
Comment (SnirBroshi) [reply Mathlib/FieldTheory/IsAlgClosed/Basic.lean]: Good catch, generalized to `Semiring`

File: Mathlib/FieldTheory/IsAlgClosed/Basic.lean (hunk 31 above)
Comment (SnirBroshi) [reply Mathlib/FieldTheory/IsAlgClosed/Basic.lean]: Yes, `aroots` requires it (and `Algebra` requires `CommSemiring`). I can generalize `aroots` and `Algebra` themselves but I feel like that's a very bold move. Should I?

File: Mathlib/Algebra/Polynomial/Roots.lean (hunk 28 above)
Comment (SnirBroshi) [reply Mathlib/Algebra/Polynomial/Roots.lean]: Almost, generalized to `p ≠ 0`

**Comment by erdOne** [comment]
!bench

File: Mathlib/RingTheory/SimpleRing/Basic.lean [hunk 32]
```diff
@@ -22,8 +23,6 @@ A ring `R` is **simple** if it has only two two-sided ideals, namely `⊥` and `
 
 -/
 
-assert_not_exists Finset
```
Comment (erdOne) [inline Mathlib/RingTheory/SimpleRing/Basic.lean:25]: It's probably not a good thing to remove `assert_not_exists` without any justifications. Can you investigate a bit about why `Finset` is needed in the new lemma? Or if there are better places to put the new lemma.

Comment (SnirBroshi) [reply Mathlib/RingTheory/SimpleRing/Basic.lean:25]: The new instance needs `faithfulSMul_iff_algebraMap_injective` which is from `Algebra/Algebra/Basic`, and at the bottom of that file there are proofs about `Finset.prod` and `Finset.sum` (`algebraMap.coe_prod` and `algebraMap.coe_sum`).
So nothing actually requires `Finset`, it's just about locations of things.

I couldn't think of a better way to place things, but I also couldn't find a reason for the `assert_not_exists`, so I removed it.
But I'm open to suggestions.

File: Mathlib/Algebra/Polynomial/Roots.lean [hunk 33]
```diff
@@ -111,6 +111,23 @@ theorem ne_zero_of_mem_roots (h : a ∈ p.roots) : p ≠ 0 :=
 theorem isRoot_of_mem_roots (h : a ∈ p.roots) : IsRoot p a :=
   (mem_roots'.1 h).2
 
+theorem roots_zero_iff_isRoot_bot (hp0 : p ≠ 0) : p.roots = 0 ↔ p.IsRoot = ⊥ := by
```
Comment (erdOne) [inline Mathlib/Algebra/Polynomial/Roots.lean]:
```suggestion
theorem roots_eq_zero_iff_isRoot_eq_bot (hp0 : p ≠ 0) : p.roots = 0 ↔ p.IsRoot = ⊥ := by
```

File: Mathlib/Algebra/Polynomial/Roots.lean [hunk 34]
```diff
@@ -111,6 +111,23 @@ theorem ne_zero_of_mem_roots (h : a ∈ p.roots) : p ≠ 0 :=
...
+  constructor <;> intro h
+  · ext a
+    simp only [IsRoot, Pi.bot_apply, Prop.bot_eq_false, iff_false]
+    exact mem_roots hp0 |>.not.mp <| by simp [h]
+  · exact eq_zero_of_forall_notMem fun x hx ↦ h ▸ mem_roots hp0 |>.mp hx
+
+theorem roots_zero_iff_zero_or_isRoot_bot : p.roots = 0 ↔ p = 0 ∨ p.IsRoot = ⊥ := by
```
Comment (erdOne) [inline Mathlib/Algebra/Polynomial/Roots.lean]:
```suggestion
theorem roots_eq_zero_iff_eq_zero_or_isRoot_eq_bot : p.roots = 0 ↔ p = 0 ∨ p.IsRoot = ⊥ := by
```

File: Mathlib/Algebra/Polynomial/Roots.lean [hunk 35]
```diff
@@ -581,6 +603,10 @@ theorem mem_rootSet_of_injective [CommRing S] {p : S[X]} [Algebra S R]
   classical
   exact Multiset.mem_toFinset.trans (mem_roots_map_of_injective h hp)
 
+theorem mem_rootSet'' [CommRing S] {p : S[X]} [Algebra S R] [FaithfulSMul S R] {x : R}
```
Comment (erdOne) [inline Mathlib/Algebra/Polynomial/Roots.lean]: Can you add a docstring describing its difference with the unprimed versions? Thanks.

File: Mathlib/Algebra/Polynomial/Roots.lean [hunk 36]
```diff
@@ -710,12 +736,26 @@ theorem Monic.isUnit_leadingCoeff_of_dvd {a p : R[X]} (hp : Monic p) (hap : a 
     IsUnit a.leadingCoeff :=
   isUnit_of_dvd_one (by simpa only [hp.leadingCoeff] using leadingCoeff_dvd_leadingCoeff hap)
 
+theorem Irreducible.roots_card_le_one (hirr : Irreducible p) : p.roots.card ≤ 1 := by
```
Comment (erdOne) [inline Mathlib/Algebra/Polynomial/Roots.lean]: Is it intentional that this is in the `Polynomial.Irreducible` namespace? I'm not sure if this is a good choice.

File: Mathlib/Algebra/Polynomial/Roots.lean [hunk 37]
```diff
@@ -710,12 +736,26 @@ theorem Monic.isUnit_leadingCoeff_of_dvd {a p : R[X]} (hp : Monic p) (hap : a 
...
+  obtain hp | ⟨x, hx⟩ := p.roots.empty_or_exists_mem
+  · simp [hp]
+  convert p.card_roots'
+  exact (natDegree_eq_of_degree_eq_some <| degree_eq_one_of_irreducible_of_root hirr <|
+    isRoot_of_mem_roots hx).symm
+
+theorem Irreducible.roots_zero_of_natDegree_ne_one (hirr : Irreducible p) (hdeg : p.natDegree ≠ 1) :
```
Comment (erdOne) [inline Mathlib/Algebra/Polynomial/Roots.lean]:
```suggestion
theorem Irreducible.roots_eq_zero_of_natDegree_ne_one (hirr : Irreducible p) (hdeg : p.natDegree ≠ 1) :
```

File: Mathlib/Algebra/Polynomial/Roots.lean [hunk 38]
```diff
@@ -784,6 +824,27 @@ theorem map_roots_le_of_injective [IsDomain A] [IsDomain B] (p : A[X]) {f : A 
   · simp only [hp0, roots_zero, Multiset.map_zero, Polynomial.map_zero, le_rfl]
   exact map_roots_le ((Polynomial.map_ne_zero_iff hf).mpr hp0)
 
+theorem map_roots_card_le_degree {A B : Type*} [Semiring A] [CommRing B] [IsDomain B]
```
Comment (erdOne) [inline Mathlib/Algebra/Polynomial/Roots.lean]:
```suggestion
theorem card_roots_map_le_degree {A B : Type*} [Semiring A] [CommRing B] [IsDomain B]
```
Because the LHS is `card (roots (map p f))` and the dot notation is merely notation. Same below.

File: Mathlib/Algebra/Polynomial/Roots.lean [hunk 39]
```diff
@@ -784,6 +824,27 @@ theorem map_roots_le_of_injective [IsDomain A] [IsDomain B] (p : A[X]) {f : A 
...
+    {f : A →+* B} (p : A[X]) (hp0 : p ≠ 0) : (p.map f).roots.card ≤ p.degree := by
+  by_cases hpm0 : p.map f = 0
+  · simp [hp0, hpm0, Polynomial.zero_le_degree_iff]
+  exact card_roots hpm0 |>.trans degree_map_le
+
+theorem map_roots_card_le_natDegree {A B : Type*} [Semiring A] [CommRing B] [IsDomain B]
```
Comment (erdOne) [inline Mathlib/Algebra/Polynomial/Roots.lean]:
```suggestion
theorem card_roots_map_le_natDegree {A B : Type*} [Semiring A] [CommRing B] [IsDomain B]
```

File: Mathlib/Algebra/Polynomial/Roots.lean [hunk 40]
```diff
@@ -784,6 +824,27 @@ theorem map_roots_le_of_injective [IsDomain A] [IsDomain B] (p : A[X]) {f : A 
...
+    {f : A →+* B} (p : A[X]) : (p.map f).roots.card ≤ p.natDegree :=
+  card_roots' _ |>.trans natDegree_map_le
+
+theorem map_roots_filter_range_eq_roots_map [IsDomain A] [IsDomain B] {f : A →+* B}
```
Comment (erdOne) [inline Mathlib/Algebra/Polynomial/Roots.lean]:
```suggestion
theorem filter_roots_map_range_eq_map_roots [IsDomain A] [IsDomain B] {f : A →+* B}
```

File: Mathlib/Algebra/Polynomial/Splits.lean [hunk 41]
```diff
@@ -585,21 +585,29 @@ theorem eval_derivative_div_eval_of_ne_zero_of_splits {p : K[X]} {x : K}
   rw [eval_derivative_eq_eval_mul_sum_of_splits h hx]
   exact mul_div_cancel_left₀ _ hx
 
+theorem prod_roots_mul_leadingCoeff_eq_coeff_zero_of_splits {P : K[X]}
```
Comment (erdOne) [inline Mathlib/Algebra/Polynomial/Splits.lean]:
```suggestion
theorem coeff_zero_eq_leadingCoeff_mul_prod_roots_of_splits {P : K[X]}
```
Or arguably these could go under the `Splits` namespace.

File: Mathlib/Algebra/Polynomial/Splits.lean [hunk 42]
```diff
@@ -585,21 +585,29 @@ theorem eval_derivative_div_eval_of_ne_zero_of_splits {p : K[X]} {x : K}
...
 theorem prod_roots_eq_coeff_zero_of_monic_of_splits {P : K[X]} (hmo : P.Monic)
     (hP : P.Splits (RingHom.id K)) : coeff P 0 = (-1) ^ P.natDegree * P.roots.prod := by
-  nth_rw 1 [eq_prod_roots_of_monic_of_splits_id hmo hP]
-  rw [coeff_zero_eq_eval_zero, eval_multiset_prod, Multiset.map_map]
-  simp_rw [Function.comp_apply, eval_sub, eval_X, zero_sub, eval_C]
-  simp only [splits_iff_card_roots.1 hP, Multiset.prod_map_neg]
+  convert prod_roots_mul_leadingCoeff_eq_coeff_zero_of_splits hP
+  simp [hmo]
+
+theorem sum_roots_mul_leadingCoeff_eq_nextCoeff_of_split {P : K[X]}
```
Comment (erdOne) [inline Mathlib/Algebra/Polynomial/Splits.lean]:
```suggestion
theorem nextCoeff_eq_neg_sum_roots_mul_leadingCoeff_of_splits {P : K[X]}
```

File: Mathlib/FieldTheory/IsAlgClosed/AlgebraicClosure.lean [hunk 43]
```diff
@@ -200,6 +200,9 @@ instance {L : Type*} [Field k] [Field L] [Algebra k L] [Algebra.IsAlgebraic k L]
   isAlgebraic := .trans k L _
   isAlgClosed := inferInstance
 
+theorem aroots_card_eq_natDegree {p : k[X]} : (p.aroots <| AlgebraicClosure k).card = p.natDegree :=
```
Comment (erdOne) [inline Mathlib/FieldTheory/IsAlgClosed/AlgebraicClosure.lean]: Do we really want this lemma? Is `IsAlgClosed.aroots_card_eq_natDegree` not enough?

File: Mathlib/FieldTheory/IsAlgClosed/Basic.lean [hunk 44]
```diff
@@ -108,25 +108,82 @@ theorem roots_eq_zero_iff [IsAlgClosed k] {p : k[X]} :
     rw [← mem_roots (ne_zero_of_degree_gt hd), h] at hz
     simp at hz
 
+theorem roots_eq_zero_iff_natDegree_zero [IsAlgClosed k] {p : k[X]} :
```
Comment (erdOne) [inline Mathlib/FieldTheory/IsAlgClosed/Basic.lean]:
```suggestion
theorem roots_eq_zero_iff_natDegree_eq_zero [IsAlgClosed k] {p : k[X]} :
```

File: Mathlib/FieldTheory/IsAlgClosed/Basic.lean [hunk 45]
```diff
@@ -108,25 +108,82 @@ theorem roots_eq_zero_iff [IsAlgClosed k] {p : k[X]} :
...
+    p.roots = 0 ↔ p.natDegree = 0 :=
+  roots_eq_zero_iff.trans eq_C_coeff_zero_iff_natDegree_eq_zero
+
+theorem roots_eq_zero_iff_degree_le_zero [IsAlgClosed k] {p : k[X]} : p.roots = 0 ↔ p.degree ≤ 0 :=
```
Comment (erdOne) [inline Mathlib/FieldTheory/IsAlgClosed/Basic.lean]:
```suggestion
theorem roots_eq_zero_iff_degree_nonpos [IsAlgClosed k] {p : k[X]} : p.roots = 0 ↔ p.degree ≤ 0 :=
```

File: Mathlib/FieldTheory/IsAlgClosed/Basic.lean [hunk 46]
```diff
@@ -108,25 +108,82 @@ theorem roots_eq_zero_iff [IsAlgClosed k] {p : k[X]} :
...
+  roots_eq_zero_iff_natDegree_zero.trans natDegree_eq_zero_iff_degree_le_zero
+
+theorem roots_card_eq_natDegree [IsAlgClosed k] {p : k[X]} : p.roots.card = p.natDegree := by
```
Comment (erdOne) [inline Mathlib/FieldTheory/IsAlgClosed/Basic.lean]:
```suggestion
theorem card_roots_eq_natDegree [IsAlgClosed k] {p : k[X]} : p.roots.card = p.natDegree := by
```

File: Mathlib/FieldTheory/IsAlgClosed/Basic.lean [hunk 47]
```diff
@@ -108,25 +108,82 @@ theorem roots_eq_zero_iff [IsAlgClosed k] {p : k[X]} :
...
+  map_roots_card_eq_natDegree_of_leadingCoeff_ne_zero _ hf
+
+theorem aroots_card_eq_natDegree_of_isUnit_leadingCoeff {A B : Type*} [CommRing A] [Field B]
+    [IsAlgClosed B] [Algebra A B] {p : A[X]} (h : IsUnit p.leadingCoeff) :
+    (p.aroots B).card = p.natDegree :=
+  map_roots_card_eq_natDegree_of_isUnit_leadingCoeff _ h
+
+theorem aroots_card_eq_natDegree {A B : Type*} [CommRing A] [Field B] [IsAlgClosed B] [Algebra A B]
+    [FaithfulSMul A B] {p : A[X]} : (p.aroots B).card = p.natDegree :=
+  map_roots_card_eq_natDegree_of_injective _ <| FaithfulSMul.algebraMap_injective _ _
```
Comment (erdOne) [inline Mathlib/FieldTheory/IsAlgClosed/Basic.lean]: The names of these are wrong too.

File: Mathlib/FieldTheory/IsAlgClosed/Basic.lean [hunk 48]
```diff
@@ -108,25 +108,82 @@ theorem roots_eq_zero_iff [IsAlgClosed k] {p : k[X]} :
...
     ∃ x : k, aeval x p = 0 :=
-  exists_eval₂_eq_zero_of_injective (algebraMap R k) hinj p hp
+  exists_eval₂_eq_zero_of_injective _ hinj p hp
 
 theorem exists_aeval_eq_zero {R : Type*} [Field R] [IsAlgClosed k] [Algebra R k] (p : R[X])
     (hp : p.degree ≠ 0) : ∃ x : k, aeval x p = 0 :=
-  exists_eval₂_eq_zero (algebraMap R k) p hp
+  exists_eval₂_eq_zero _ p hp
+
+theorem exists_aeval_eq_zero' {R : Type*} [CommSemiring R] [IsAlgClosed k] [Algebra R k]
```
Comment (erdOne) [inline Mathlib/FieldTheory/IsAlgClosed/Basic.lean]: Can you add a docstring describing the difference of this with the unprimed one? Thanks.

**Review by erdOne — COMMENTED** [review]
Mostly nitpicks about names

File: Mathlib/Algebra/Polynomial/Roots.lean (hunk 35 above)
Comment (SnirBroshi) [reply Mathlib/Algebra/Polynomial/Roots.lean]: `mem_rootSet''` was `mem_rootSet` but with `FaithfulSMul` instead of `NoZeroSMulDivisors`, which are equivalent to each other thanks to existing instances, so I deleted `mem_rootSet''`.

I also added docstrings to describe the differences between the existing `mem_rootSet` and `mem_rootSet'`.

File: Mathlib/FieldTheory/IsAlgClosed/AlgebraicClosure.lean (hunk 43 above)
Comment (SnirBroshi) [reply Mathlib/FieldTheory/IsAlgClosed/AlgebraicClosure.lean]: This version doesn't require `Field` and `IsAlgClosed` and `FaithfulSMul` because those are known about `AlgebraicClosure`, but I deleted it

File: Mathlib/FieldTheory/IsAlgClosed/Basic.lean (hunk 48 above)
Comment (SnirBroshi) [reply Mathlib/FieldTheory/IsAlgClosed/Basic.lean]: This was a generalization of the unprimed version from `Field` to `CommSemiring` + `FaithfulSMul`, so I generalized the existing version instead and deleted this

File: Mathlib/RingTheory/SimpleRing/Basic.lean (hunk 32 above)
Comment (ocfnash) [reply Mathlib/RingTheory/SimpleRing/Basic.lean:25]: Please do not resolve conversations like this without agreement from the person who started it.

In this case, the point about removing `assert_not_exists` is important: somebody put this here for a reason and the discussion is not finished.

**Review by ocfnash — COMMENTED** [review]
Thanks, there are numerous useful lemmas here!

However this is very difficult to review in its current state. One of the reasons is that you are changing our imports and even proposing dropping an `assert_not_exists` in parallel with adding a large number of minor new results.

I think to progress here you should:

- split this PR up into several pieces
- attempt to eliminate or reduce the import increases
- consider means to obviate removing the `assert_not_exists`

Perhaps you could start by gathering those results which do nothing controversial into a PR of their own.

File: Mathlib/RingTheory/SimpleRing/Basic.lean (hunk 32 above)
Comment (SnirBroshi) [reply Mathlib/RingTheory/SimpleRing/Basic.lean:25]: Reverted, the same instance was added in #29356 

> Please do not resolve conversations like this without agreement from the person who started it.

Sorry, I was given the impression from another reviewer that I must resolve everything I've responded to.

Now that this is reverted I think I can resolve (without agreement from the person who started it) as it objectively no longer matters.

**Comment by SnirBroshi** [comment]
> Thanks, there are numerous useful lemmas here!
> 
> However this is very difficult to review in its current state. One of the reasons is that you are changing our imports and even proposing dropping an `assert_not_exists` in parallel with adding a large number of minor new results.
> 
> I think to progress here you should:
> 
> * split this PR up into several pieces
> * attempt to eliminate or reduce the import increases
> * consider means to obviate removing the `assert_not_exists`
> 
> Perhaps you could start by gathering those results which do nothing controversial into a PR of their own.

- No more import changes
- No more instances
- No more removing `assert_not_exists`

Hopefully nothing controversial remains.

**Comment by SnirBroshi** [comment]
-awaiting-author

File: Mathlib/Algebra/Polynomial/Degree/Lemmas.lean [hunk 49]
```diff
@@ -271,6 +271,39 @@ theorem natDegree_map_eq_iff {f : R →+* S} {p : Polynomial R} :
...
+    (p.map f).degree = p.degree := by
+  simp [hf, map_ne_zero_iff, ne_or_eq]
+
+theorem natDegree_map_eq_of_injective {f : R →+* S} (hf : Function.Injective f) (p : Polynomial R) :
+    (p.map f).natDegree = p.natDegree :=
+  natDegree_eq_of_degree_eq <| degree_map_eq_of_injective hf _
+
+theorem leadingCoeff_map_of_injective {f : R →+* S} (hf : Function.Injective f)
+    (p : Polynomial R) : (p.map f).leadingCoeff = f p.leadingCoeff := by
+  grind [leadingCoeff, natDegree_map_eq_of_injective, coeff_map]
```
Comment (ocfnash) [inline Mathlib/Algebra/Polynomial/Degree/Lemmas.lean]:
```suggestion
  simp only [leadingCoeff, natDegree_map_eq_of_injective hf, coeff_map]
```

File: Mathlib/Algebra/Polynomial/Degree/Lemmas.lean [hunk 50]
```diff
@@ -323,6 +356,11 @@ lemma natDegree_eq_one : p.natDegree = 1 ↔ ∃ a ≠ 0, ∃ b, C a * X + C b =
   · rintro ⟨a, ha, b, rfl⟩
     simp [ha]
 
+theorem subsingleton_isRoot_of_natDegree_eq_one [IsLeftCancelMulZero R] [IsRightCancelAdd R]
+    (h : p.natDegree = 1) : { x | IsRoot p x }.Subsingleton := by
+  intro
+  grind [natDegree_eq_one, IsRoot, eval_add, eval_mul_X, eval_C, mul_left_cancel₀]
```
Comment (ocfnash) [inline Mathlib/Algebra/Polynomial/Degree/Lemmas.lean]: I think this is a bit over-golfed, and potentially brittle to minor changes in the behaviour of `grind`. Let's be more conservative and go with:
```suggestion
  intro r₁
  obtain ⟨r₂, hr₂, r₃, rfl⟩ : ∃ a, a ≠ 0 ∧ ∃ b, C a * X + C b = p := by rwa [natDegree_eq_one] at h
  have (x y : R) := mul_left_cancel₀ hr₂ (b := x) (c := y)
  grind [IsRoot, eval_add, eval_mul_X, eval_C]
```

File: Mathlib/Algebra/Polynomial/Eval/Defs.lean [hunk 51]
```diff
@@ -552,6 +552,9 @@ protected theorem map_pow (n : ℕ) : (p ^ n).map f = p.map f ^ n :=
 theorem eval_map (x : S) : (p.map f).eval x = p.eval₂ f x :=
   (eval₂_eq_eval_map f).symm
 
+lemma eval_map_apply (x : R) : (p.map f).eval (f x) = f (p.eval x) :=
```
Comment (ocfnash) [inline Mathlib/Algebra/Polynomial/Eval/Defs.lean]: Can this be `simp`?
```suggestion
@[simp] lemma eval_map_apply (x : R) : (p.map f).eval (f x) = f (p.eval x) :=
```

File: Mathlib/Algebra/Polynomial/Eval/Degree.lean [hunk 52]
```diff
@@ -165,22 +165,20 @@ lemma natDegree_map_lt' (hp : f p.leadingCoeff = 0) (hp₀ : 0 < natDegree p) :
...
     degree (p.map f) = degree p := by
-  refine degree_map_le.antisymm ?_
-  have hp0 : p ≠ 0 :=
-    leadingCoeff_ne_zero.mp fun hp0 => hf (_root_.trans (congr_arg _ hp0) f.map_zero)
-  rw [degree_eq_natDegree hp0]
-  refine le_degree_of_ne_zero ?_
-  rw [coeff_map]
-  exact hf
+  grind [degree_eq_natDegree, coeff_map, coeff_natDegree, le_degree_of_ne_zero, degree_map_le,
+    le_antisymm, leadingCoeff_ne_zero, RingHom.map_zero]
```
Comment (ocfnash) [inline Mathlib/Algebra/Polynomial/Eval/Degree.lean]: Please restore the original proof here.

We're a bit nervous about proofs which require passing long lists of lemmas into `grind` because they are potentially brittle to minor changes in the behaviour of `grind`. Given that we already have a perfectly valid, proof here let's just keep it.

File: Mathlib/Algebra/Polynomial/Eval/Degree.lean [hunk 53]
```diff
@@ -165,22 +165,20 @@ lemma natDegree_map_lt' (hp : f p.leadingCoeff = 0) (hp₀ : 0 < natDegree p) :
...
 theorem natDegree_map_of_leadingCoeff_ne_zero (f : R →+* S) (hf : f (leadingCoeff p) ≠ 0) :
     natDegree (p.map f) = natDegree p :=
   natDegree_eq_of_degree_eq (degree_map_eq_of_leadingCoeff_ne_zero f hf)
 
 theorem leadingCoeff_map_of_leadingCoeff_ne_zero (f : R →+* S) (hf : f (leadingCoeff p) ≠ 0) :
     leadingCoeff (p.map f) = f (leadingCoeff p) := by
-  unfold leadingCoeff
-  rw [coeff_map, natDegree_map_of_leadingCoeff_ne_zero f hf]
+  grind [natDegree_map_of_leadingCoeff_ne_zero, coeff_map, coeff_natDegree]
+
```
Comment (ocfnash) [inline Mathlib/Algebra/Polynomial/Eval/Degree.lean:184]: As above, please restore the original proof.

File: Mathlib/Algebra/Polynomial/AlgebraMap.lean [hunk 54]
```diff
@@ -480,6 +480,12 @@ theorem isRoot_of_aeval_algebraMap_eq_zero [Algebra R S] {p : R[X]}
     p.IsRoot r :=
   isRoot_of_eval₂_map_eq_zero inj hr
 
+/-- A version of `isRoot_of_aeval_algebraMap_eq_zero` that requires a `FaithfulSMul` instance
+instead of an injective `algebraMap`. -/
+theorem isRoot_of_aeval_algebraMap_eq_zero' [Algebra R S] [FaithfulSMul R S] {p : R[X]} {r : R}
+    (hr : p.aeval (algebraMap R S r) = 0) : p.IsRoot r :=
+  isRoot_of_aeval_algebraMap_eq_zero (FaithfulSMul.algebraMap_injective _ _) hr
```
Comment (ocfnash) [inline Mathlib/Algebra/Polynomial/AlgebraMap.lean]: Please just replace the existing lemma `isRoot_of_aeval_algebraMap_eq_zero` rather than creating a second version.

File: Mathlib/Algebra/Polynomial/Div.lean [hunk 55]
```diff
@@ -743,6 +748,19 @@ lemma degree_eq_one_of_irreducible_of_root (hi : Irreducible p) {x : R} (hx : Is
       rw [h₁] at h₂; exact absurd h₂ (by decide))
     fun hgu => by rw [hg, degree_mul, degree_X_sub_C, degree_eq_zero_of_isUnit hgu, add_zero]
 
+lemma not_isRoot_of_irreducible_natDegree_ne_one
```
Comment (ocfnash) [inline Mathlib/Algebra/Polynomial/Div.lean]: If we do this then we can use dot notation:
```suggestion
lemma _root_.Irreducible.not_isRoot_of_natDegree_ne_one
```

File: Mathlib/Algebra/Polynomial/Div.lean [hunk 56]
```diff
@@ -743,6 +748,19 @@ lemma degree_eq_one_of_irreducible_of_root (hi : Irreducible p) {x : R} (hx : Is
...
+    (hi : Irreducible p) (hdeg : p.natDegree ≠ 1) {x : R} : ¬p.IsRoot x :=
+  fun hr ↦ hdeg <| natDegree_eq_of_degree_eq_some <| degree_eq_one_of_irreducible_of_root hi hr
+
+lemma isRoot_eq_bot_of_irreducible_natDegree_ne_one
```
Comment (ocfnash) [inline Mathlib/Algebra/Polynomial/Div.lean]:
```suggestion
lemma _root_.Irreducible.isRoot_eq_bot_of_natDegree_ne_one
```

File: Mathlib/Algebra/Polynomial/Div.lean [hunk 57]
```diff
@@ -743,6 +748,19 @@ lemma degree_eq_one_of_irreducible_of_root (hi : Irreducible p) {x : R} (hx : Is
...
+    (hi : Irreducible p) (hdeg : p.natDegree ≠ 1) : p.IsRoot = ⊥ :=
+  le_bot_iff.mp fun _ ↦ not_isRoot_of_irreducible_natDegree_ne_one hi hdeg
+
+lemma subsingleton_isRoot_of_irreducible [IsLeftCancelMulZero R] [IsRightCancelAdd R]
```
Comment (ocfnash) [inline Mathlib/Algebra/Polynomial/Div.lean]:
```suggestion
lemma _root_.Irreducible.subsingleton_isRoot [IsLeftCancelMulZero R] [IsRightCancelAdd R]
```

File: Mathlib/Algebra/Polynomial/FieldDivision.lean [hunk 58]
```diff
@@ -249,35 +249,40 @@ theorem degree_pos_of_ne_zero_of_nonunit (hp0 : p ≠ 0) (hp : ¬IsUnit p) : 0 <
...
-theorem leadingCoeff_map [Semiring S] [Nontrivial S] (f : R →+* S) :
-    leadingCoeff (p.map f) = f (leadingCoeff p) := by
-  simp only [← coeff_natDegree, coeff_map f, natDegree_map]
+theorem leadingCoeff_map (f : R →+* S) : (p.map f).leadingCoeff = f p.leadingCoeff :=
+  leadingCoeff_map_of_injective f.injective _
 
-theorem monic_map_iff [Semiring S] [Nontrivial S] {f : R →+* S} {p : R[X]} :
-    (p.map f).Monic ↔ p.Monic := by
-  rw [Monic, leadingCoeff_map, ← f.map_one, Function.Injective.eq_iff f.injective, Monic]
+theorem nextCoeff_map_eq_from_simpleRing (p : R[X]) (f : R →+* S) :
```
Comment (ocfnash) [inline Mathlib/Algebra/Polynomial/FieldDivision.lean]:
```suggestion
theorem nextCoeff_map_eq (p : R[X]) (f : R →+* S) :
```

File: Mathlib/Algebra/Polynomial/FieldDivision.lean [hunk 59]
```diff
@@ -249,35 +249,40 @@ theorem degree_pos_of_ne_zero_of_nonunit (hp0 : p ≠ 0) (hp : ¬IsUnit p) : 0 <
...
+    (p.map f).nextCoeff = f p.nextCoeff :=
+  nextCoeff_map f.injective _
 
-end DivisionRing
+theorem monic_map_iff {f : R →+* S} {p : R[X]} :
```
Comment (ocfnash) [inline Mathlib/Algebra/Polynomial/FieldDivision.lean]:
```suggestion
@[simp] theorem monic_map_iff {f : R →+* S} {p : R[X]} :
```

File: Mathlib/Algebra/Polynomial/RingDivision.lean [hunk 60]
```diff
@@ -130,6 +130,14 @@ theorem mem_nonZeroDivisors_of_trailingCoeff {p : R[X]} (h : p.trailingCoeff ∈
 
 end nonZeroDivisors
 
+lemma aeval_ne_zero_of_irredicble_natDegree_ne_one [IsDomain R] [Ring S] [Algebra R S]
```
Comment (ocfnash) [inline Mathlib/Algebra/Polynomial/RingDivision.lean]: As elsewhere, to enable dot notation in downstream proofs:
```suggestion
lemma _root_.Irreducible.aeval_ne_zero_of_natDegree_ne_one [IsDomain R] [Ring S] [Algebra R S]
```

File: Mathlib/Algebra/Polynomial/Roots.lean [hunk 61]
```diff
@@ -111,6 +111,17 @@ theorem ne_zero_of_mem_roots (h : a ∈ p.roots) : p ≠ 0 :=
...
+theorem roots_eq_zero_iff_isRoot_eq_bot (hp0 : p ≠ 0) : p.roots = 0 ↔ p.IsRoot = ⊥ := by
+  refine ⟨fun h ↦ ?_, fun h ↦ eq_zero_of_forall_notMem fun x hx ↦ h ▸ mem_roots hp0 |>.mp hx⟩
+  ext a
+  simp only [Pi.bot_apply, Prop.bot_eq_false, mem_roots hp0 |>.not.mp <| by simp [h]]
+
+theorem roots_eq_zero_iff_eq_zero_or_isRoot_eq_bot : p.roots = 0 ↔ p = 0 ∨ p.IsRoot = ⊥ := by
+  by_cases hp0 : p = 0
+  · exact ⟨fun _ ↦ Or.inl hp0, fun _ ↦ hp0 ▸ roots_zero⟩
+  refine ⟨fun h ↦ Or.inr <| roots_eq_zero_iff_isRoot_eq_bot hp0 |>.mp h, fun h ↦ Or.elim h ?_ ?_⟩
+  exacts [fun h ↦ False.elim <| hp0 h, fun h ↦ roots_eq_zero_iff_isRoot_eq_bot hp0 |>.mpr h]
```
Comment (ocfnash) [inline Mathlib/Algebra/Polynomial/Roots.lean]:
```suggestion
  rcases eq_or_ne p 0 with rfl | hp0; · simp
  simp [roots_eq_zero_iff_isRoot_eq_bot hp0, hp0]
```

File: Mathlib/Algebra/Polynomial/Roots.lean [hunk 62]
```diff
@@ -189,6 +200,11 @@ theorem roots_C_mul (p : R[X]) (ha : a ≠ 0) : (C a * p).roots = p.roots := by
     simp only [roots_mul, *, Ne, mul_eq_zero, C_eq_zero, or_self_iff, not_false_iff, roots_C,
       zero_add, mul_zero]
 
+theorem roots_congr {p q : R[X]} (h : Associated p q) : p.roots = q.roots := by
```
Comment (ocfnash) [inline Mathlib/Algebra/Polynomial/Roots.lean]:
```suggestion
theorem _root_.Associated.roots_eq {p q : R[X]} (h : Associated p q) : p.roots = q.roots := by
```

**Review by ocfnash — APPROVED** [review]
Thanks!

Please apply the suggestions and then feel free to merge.

bors d+
